US09169261B2
To a solution of ethyl 6-chloroquinazoline-2-carboxylate (0.200 g, 0.85 mmol, 1 eq) in 0.42 mL of NMP was added (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate (0.16 g, 0.86 mmol, 1 eq) and diisopropylethylamine (0.6 mL, 3.4 mmol, 4 eq). After stirring at 150° C. for 20 h, the mixture was concentrated and purified via silica gel flash chromatography to provide (S)-tert-butyl 3-(6-chloroquinazoline-2-carboxamido)pyrrolidine-1-carboxylate (0.08 g, 0.21 mmol, 25%).

reactant | ethyl 6-chloroquinazoline-2-carboxylate | 0.85 mmol, 0.200 g, 1 eq | ClC=1C=C2C=NC(=NC2=CC1)C(=O)OCC | C11H9ClN2O2
reactant | (S)-tert-butyl 3-aminopyrrolidine-1-carboxylate | 0.86 mmol, 0.16 g, 1 eq | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | diisopropylethylamine | 3.4 mmol, 0.6 mL, 4 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | NMP | 0.42 mL | CN1CCCC1=O | C5H9NO
product | (S)-tert-butyl 3-(6-chloroquinazoline-2-carboxamido)pyrrolidine-1-carboxylate | 0.21 mmol, 0.08 g, 25% | ClC=1C=C2C=NC(=NC2=CC1)C(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C18H21ClN4O3
